US08202873B2
3′-(4-Fluoro-phenyl)-4-[1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.150 g, 0.581 mmol) in DCE (5 mL). Add 1-(2,2,2-trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde (0.124 g, 0.697 mmol) followed by sodium triacetoxyborohydride (0.185 g, 0.872 mmol) and stir at ambient temperature for 18 hr. Add 1-(2,2,2-trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde (0.062 g, 0.349 mmol) and stir at ambient temperature for 2 hr. Add sodium triacetoxyborohydride (0.092 g, 0.436 mmol) and stir at ambient temperature for 72 hr. Purify via SCX chromatography. Add resin-bound-isocyanate (0.796 g, 1.16 mmol) and DCM (8 mL) and shake at ambient temperature for 4 hr. Filter, concentrate and purify (silica gel chromatography, eluting with 100:0 to 0:100 hexanes:ethyl acetate, then 10:90 methanol:ethyl acetate) to give the free base of the title compound (103 mg, 42%). Dissolve the free base (0.099 g, 0.237 mmol) in methanol and add a solution of ammonium chloride (0.013 g, 0.237 mmol) in a minimal volume of methanol. Shake for 18 hr. at ambient temperature and concentrate to give the title compound (108 mg, 100%). MS (ES): m/z=421[M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.581 mmol, 0.150 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-(2,2,2-trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde | 0.697 mmol, 0.124 g | FC(CN1N=CC(=C1)C=O)(F)F | C6H5F3N2O
reactant | sodium triacetoxyborohydride | 0.872 mmol, 0.185 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(2,2,2-trifluoro-ethyl)-1H-pyrazole-4-carbaldehyde | 0.349 mmol, 0.062 g | FC(CN1N=CC(=C1)C=O)(F)F | C6H5F3N2O
reactant | sodium triacetoxyborohydride | 0.436 mmol, 0.092 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 3′-(4-Fluoro-phenyl)-4-[1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-4-ylmethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 103 mg, 42% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CC(F)(F)F | InChI=1S/C20H20F4N6.ClH/c21-17-3-1-16(2-4-17)18-19(26-6-5-25-18)29-9-7-28(8-10-29)12-15-11-27-30(13-15)14-20(22,23)24;/h1-6,11,13H,7-10,12,14H2;1H
